US06342644B1
A 200 ml capacity autoclave was charged with 30.4 g (200 mmol) of pulegone, 19.1 mg (0.02 mmol) of RuCl2(PPh3)3(propanediamine), 44.9 mg (0.4 mmol) of t-BuOK and 2-propanol (15 ml), and the mixture was stirred at 30° C. for 18 hours while forcing 3 Mpa of hydrogen. After completion of the reaction, hydrogen was purged and the reaction solution was concentrated and distilled under a reduced pressure to obtain 30.2 g of pulegol. The yield was 98%.

reactant | pulegone | 200 mmol, 30.4 g | C[C@@H]1CCC(=C(C)C)C(=O)C1 | C10H16O
reactant | t-BuOK | 0.4 mmol, 44.9 mg | CC(C)(C)[O-].[K+]
reactant | hydrogen | [H][H] | H2
solvent | 2-propanol | 15 ml | CC(C)O | C3H8O
product | pulegol | 30.2 g, yield was 98% | CC1CCC(=C(C)C)C(C1)O | C10H18O
